US07351700B2
4-(2-Hexylsulfanyl-6-trifluoromethyl-pyrimidin-4-ylmethyl)-morpholine
2-Hexylsulfanyl-6-trifluoromethyl-pyrimidine-4-carbaldehyde (0.5 g, 1.7 mmol) and morpholine (0.16 mL, 1.9 mmol) were dissolved in ethanol (5 mL) and acetic acid (0.5 mL) and treated with borane-pyridine complex (0.19 mL, 1.9 mmol) for 4 h at 20° C. The reaction mixture was evaporated to dryness. Extraction: 2×AcOEt, 1×10% aqueous Na2CO3. One obtained a mixture of the expected product and the reduced aldehyde which was more polar. This mixture was separated by chromatography on Si-amine from Silicycle with a gradient of heptane/ethyl acetate from 10:1 up to 1:1. Gave 220 mg (35%) of a colorless oil. MS: m/z=364 (M+H).

reactant | 2-Hexylsulfanyl-6-trifluoromethyl-pyrimidine-4-carbaldehyde | 1.7 mmol, 0.5 g | C(CCCCC)SC1=NC(=CC(=N1)C=O)C(F)(F)F | C12H15F3N2OS
reactant | morpholine | 1.9 mmol, 0.16 mL | N1CCOCC1 | C4H9NO
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(2-Hexylsulfanyl-6-trifluoromethyl-pyrimidin-4-ylmethyl)-morpholine | C(CCCCC)SC1=NC(=CC(=N1)CN1CCOCC1)C(F)(F)F | C16H24F3N3OS
